US06656957B1
2-[2-(3-Bromophenyl)ethynyl]-6-methyl-pyridine
1.2 g (2.8 mMol) of 2-[1,2-dibromo-2-(3-bromophenyl)-ethyl]-6-methyl-pyridine are dissolved in 10 ml of ethanol. 0.9 g (16.1 mMol) of potassium hydroxide (powder) are added, and the resulting suspension is heated under reflux for 4 hours. The suspension is then cooled to room temperature, poured into 100 ml of brine and extracted thrice with 30 ml each of t-butyl methyl ether. The combined organic phases are washed with 30 ml of brine, dried over Sodium sulfate, filtrated and evaporated in vacua. 0.720 g of the title compound are obtained as a colorless oil crystallizing on standing; melting point 60-61°.

reactant | 2-[1,2-dibromo-2-(3-bromophenyl)-ethyl]-6-methyl-pyridine | 2.8 mMol, 1.2 g | BrC(C(C1=CC(=CC=C1)Br)Br)C1=NC(=CC=C1)C | C14H12Br3N
reactant | potassium hydroxide | 16.1 mMol, 0.9 g | [OH-].[K+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | brine | 100 ml | [Cl-].[Na+].O
product | 2-[2-(3-Bromophenyl)ethynyl]-6-methyl-pyridine | 0.720 g | BrC=1C=C(C=CC1)C#CC1=NC(=CC=C1)C | C14H10BrN
